US05420115
9-(2-Deoxy- 2-fluoro-β-D-ribofuranosyl)-6-ethoxy-9H-purine
6-Ethoxypurine (Sigma Chemical Company; 0.2 g, 1.2 mmoles) and 1-(2-deoxy-2-fluoro-β-D-ribofuranosyl)uracil (0.4 g, 1.6 mmoles) which may be prepared according to J. F. Codington et al. (J. Org. Chem. 29:558, 1964) were suspended in 20 ml of 5 mM potassium phosphate buffer, pH 7.0, which contained 0.04% (w/v) potassium azide. The pH of the suspension was adjusted to 7.0 with KOH and thymidine phosphorylase (2,000 I.U.) and purine nucleoside phosphorylase (5,540 I.U.) (T. A. Krenitsky et al., Biochemistry 20:3615, 1981 and U.S. Pat. No. 4,381,344) were added and the suspension stirred at 37° C. On day 5, and additional 2,000 I.U. thymidine phosphorylase and 2,770 I.U. of purine nucleoside phosphorylase were added. On day 9, 0.2 g 6-ethoxypurine was added. The pH of the reaction was adjusted to 7.0 with KOH and 2,000 I.U. thymidine phosphorylase and 5,540 I.U. purine nucleoside phosphorylase were added. On day 28, the suspension was filtered. The filtrate was applied to a 2.5×8.5 cm column of anion exchange resin (Bio-Rad AG1X2-hydroxide form). After washing with water, the product was eluted with methanol/water (3/7). Product containing fractions were combined and the solvent removed under vacuum. The product contained in the residue was further purified by chromatography on a 2.5×90 cm column of Biogel P-2 (Bio-Rad) with water/methanol (8/2) as the solvent followed by chromatography on a 2.5×50 cm silica gel column with acetonitrile/water (49/1) as the solvent. Product containing fractions were combined and the solvent removed under vacuum. The residue was dissolved in water and lyophilized to obtain title compound which analyzed as a 0.5 hydrate.

reactant | 6-Ethoxypurine | 1.2 mmoles, 0.2 g | C(C)OC1=C2NC=NC2=NC=N1 | C7H8N4O
reactant | 1-(2-deoxy-2-fluoro-β-D-ribofuranosyl)uracil | 1.6 mmoles, 0.4 g | F[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C=C1 | C9H11FN2O5
reactant | potassium azide | [N-]=[N+]=[N-].[K+]
reactant | KOH | [OH-].[K+]
reactant | thymidine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
reactant | 6-ethoxypurine | 0.2 g | C(C)OC1=C2NC=NC2=NC=N1 | C7H8N4O
solvent | potassium phosphate | 5 mM, 20 ml | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
product | 9-(2-Deoxy- 2-fluoro-β-D-ribofuranosyl)-6-ethoxy-9H-purine | F[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C2=NC=NC(=C2N=C1)OCC | C12H15FN4O4
